US04920119
1 g of 4-amino-3-(4-methoxyphenyl)-5-isothiazolecarboxamide in 10 ml of glacial acetic acid and 3 ml of concentrated hydrochloric acid was stirred at 0° C. during the addition of a solution of 416 mg of sodium nitrite in 5 ml of water. The cooling bath was removed, the mixture was stirred for 1 hour and the precipitated product was removed by filtration. Recrystallization from aqueous dimethylformamide gave 820 mg of 7-(4-methoxyphenyl)-isothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one as an off-white solid of melting point 213° C. (dec.).

reactant | 4-amino-3-(4-methoxyphenyl)-5-isothiazolecarboxamide | 1 g | NC=1C(=NSC1C(=O)N)C1=CC=C(C=C1)OC | C11H11N3O2S
reactant | sodium nitrite | 416 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 3 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 7-(4-methoxyphenyl)-isothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one | 820 mg | COC1=CC=C(C=C1)C1=NSC2=C1N=NNC2=O | C11H8N4O2S
